US04337201
(S)-4-Hydroxy-1-[[ethoxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline, methyl ester
A mixture of [ethoxy(4-phenylbutyl)phosphinyl]acetic acid (1.71 g), acetonitrile and carbonyldiimidazole (0.97 g) is stirred under argon at 0° C. for 1 hour. (S)-4-hydroxyproline, methyl ester (0.006 mole) is suspended in acetonitrile, added to the mixture and stirred at room temperature 90 minutes. Solvent is stripped off, and the resulting oil is taken up in ethyl acetate, washed with 5% potassium bisulfate, washed with saturated sodium bicarbonate, washed with brine, dried over magnesium sulfate, and the solvent stripped to leave 2.23 g of the title compound as an oil.

reactant | [ethoxy(4-phenylbutyl)phosphinyl]acetic acid | 1.71 g | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)O | C14H21O4P
reactant | carbonyldiimidazole | 0.97 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-4-hydroxyproline, methyl ester | 0.006 mole | OC1C[C@H](NC1)C(=O)OC | C6H11NO3
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-Hydroxy-1-[[ethoxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline, methyl ester | 2.23 g | OC1C[C@H](N(C1)C(CP(=O)(CCCCC1=CC=CC=C1)OCC)=O)C(=O)OC | C20H30NO6P
